US05292719
To prepare the corresponding 6-carboxaldehyde, 6-formyl-1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene, 1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene (23.2 g, 0.1 mol) is added to a stirred solution of acetic acid (18.2 g, 0.3 mol), 85% phosphoric acid (17.6 g, 0.15 mol), hydrochloric acid (28.7 g, 0.3 mol) and paraformaldehyde (7.3 g, 0.24 mol). The mixture is stirred and heated at 95° C. for 16 hr. The reaction mixture is then cooled to 25° C., benzene (50 ml) added, and stirred vigorously. The organic layer is separated, washed with water (2×25 ml), neutralized with 5% sodium bicarbonate solution, and dried (Na2SO4). The solvent is removed by distillation to provide 6-chloromethyl-1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene.

reactant | 6-formyl-1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene | C(=O)C=1C(=C2C(CCC(C2=CC1C)(C)C)(C)C)OC | C17H24O2
reactant | 1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene | 0.1 mol, 23.2 g | CC1(CCC(C2=C(C=C(C=C12)C)OC)(C)C)C | C16H24O
reactant | acetic acid | 0.3 mol, 18.2 g | C(C)(=O)O | C2H4O2
reactant | phosphoric acid | 0.15 mol, 17.6 g | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | 0.3 mol, 28.7 g | Cl | ClH
reactant | paraformaldehyde | 0.24 mol, 7.3 g | C=O | CH2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-chloromethyl-1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene | ClCC=1C(=C2C(CCC(C2=CC1C)(C)C)(C)C)OC | C17H25ClO
